US07342014B2
Methyl 2-[(6-chloropyridazin-3-yl)amino]-2-oxoacetate
3-Amino-6-chloropyridazine (516 mg) was dissolved in pyridine (26 ml), and triethylamine (665 μl) and methyl chlorooxoacetate (441 μl) were successively added under ice cooling to stir the mixture at room temperature for 14 hours. After water was added to the reaction mixture to conduct liquid separation, the resultant organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain the title compound (748 mg).

reactant | 3-Amino-6-chloropyridazine | 516 mg | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | triethylamine | 665 μl | C(C)N(CC)CC | C6H15N
reactant | methyl chlorooxoacetate | 441 μl | ClC(C(=O)OC)=O | C3H3ClO3
reactant | water | O | H2O
solvent | pyridine | 26 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 2-[(6-chloropyridazin-3-yl)amino]-2-oxoacetate | 748 mg | ClC1=CC=C(N=N1)NC(C(=O)OC)=O | C7H6ClN3O3
